US04584298
Ethyl bromoacetate (5.0 g.) was added to a stirred suspension of 2,4-dimethoxythiobenzohydrazide (6.5 g.) in aqueous 3N-sodium hydroxide solution (25 ml.) and the mixture was stirred at 25° C. for 18 hours and then filtered. The solid product was purified by flash chromatography on a silica gel column (Merck 9385) using a 30:1 v/v mixture of chloroform and methanol as eluant. The aqueous filtrate was acidified with aqueous 2N hydrochloric acid and the mixture was filtered. The solid products, both from the chromatographic purification and from the acidification, were combined and crystallised from aqueous methanol. There was thus obtained (2-(2,4-dimethoxyphenyl)-4H,6H-1,3,4-thiadiazin-5-one, m.p. 162°-164° C.

reactant | Ethyl bromoacetate | 5.0 g | BrCC(=O)OCC | C4H7BrO2
reactant | 2,4-dimethoxythiobenzohydrazide | 6.5 g | COC1=C(C(=S)NN)C=CC(=C1)OC | C9H12N2O2S
reactant | sodium hydroxide | 25 ml | [OH-].[Na+]
product | 2-(2,4-dimethoxyphenyl)-4H,6H-1,3,4-thiadiazin-5-one | COC1=C(C=CC(=C1)OC)C=1SCC(NN1)=O | C11H12N2O3S
